US07179823B1
Sodium hydride (60%, oily, 880 mg) was added to a mixture of 3,5-dimethylpyrazole (2.11 g) and tetrahydrofuran (50 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. After 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (6.28 g) was added to the reaction mixture, the mixture was refluxed for 24 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and 3,5-dimethyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole (5.49 g, yield: 74%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 86–87° C.

reactant | Sodium hydride | 880 mg | [H-].[Na+]
reactant | 3,5-dimethylpyrazole | 2.11 g | CC1=NNC(=C1)C | C5H8N2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 6.28 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
solvent | water | O | H2O
product | 3,5-dimethyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazole | 5.49 g, yield: 74% | CC1=NN(C(=C1)C)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C23H23N3O2
